US04952600
A solution of the above solid in methanol was added dropwise to an equimolar amount of propargylamine and sodium carbonate in 500 ml of methanol. The mixture was stirred at room temperature for 1.5 hours, then heated at reflux overnight. Ether was added, the mixture was filtered and the filtrate concentrated to an oil. The oil was concentrated from toluene and then chromatographed (silica gel), giving 25 g of (S)-3-hydroxy-1-(2-propynyl)-2-pyrrolidinone [α]D26° =-99° (dichloromethane); mp 89°-90° C.

reactant | propargylamine | C(C#C)N | C3H5N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ether | CCOCC | C4H10O
reactant | methanol | CO | CH4O
reactant | methanol | 500 ml | CO | CH4O
product | (S)-3-hydroxy-1-(2-propynyl)-2-pyrrolidinone | 25 g | O[C@@H]1C(N(CC1)CC#C)=O | C7H9NO2
